US06875765B2
4-Methylquinoline (4.62 mL, 35.0 mmol) was mixed with freshly distilled THF (17 mL) in an argon-purged, round-bottom flask and was chilled to 0° C. Lithium diisopropyl amide (19.25 mL of 2.0M solution in diethyl ether, 38.5 mmol) was added via syringe. The reaction was stirred for ten minutes at 0° C. and then was cooled to −78° C. The chilled anion solution was cannula transferred to a −78° C. solution of ethyl chloroformate (10.0 mL, 105 mmol) in freshly distilled THF (17 mL) in an argon-purged, round-bottom flask. The reaction was stirred at −78° C. for fifteen minutes and then was quenched with saturated aqueous NH4Cl (5 mL). The quenched reaction was allowed to warm to room temperature. The mixture was diluted with H2O and was extracted three times with EtOAc. The organic extracts were combined, washed with brine solution, dried over Na2SO4, filtered through celite, and concentrated. Purification by flash chromatography (SiO2, 20% EtOAc-hexane) gave 4-(bis-ethoxycarbonyl methyl)-quinoline (6.02 g, 21.0 mmol) in 60% yield. MS (APCI) m/z 288.1 (M+H). 1H NMR (300 MHz) CDCl3 8.46 (d, J=8.7 Hz, 1H), 7.86 (d, J=8.1 Hz, 1H), 7.65 (m, 2H), 7.46 (m, 1H), 7.28 (m, 1H), 5.97 (s, 1H), 4.42 (q, J=7.1 Hz, 2H), 4.21 (q, J=7.1 Hz), 1.42 (t, J=7.1 Hz, 3H), 1.32 (t, J=7.2 Hz, 3H).

reactant | 4-Methylquinoline | 35.0 mmol, 4.62 mL | CC1=CC=NC2=CC=CC=C12 | C10H9N
reactant | THF | 17 mL | C1CCOC1 | C4H8O
reactant | Lithium diisopropyl amide | 38.5 mmol, 2.0M, 19.25 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl chloroformate | 105 mmol, 10.0 mL | ClC(=O)OCC | C3H5ClO2
reactant | THF | 17 mL | C1CCOC1 | C4H8O
reactant | H2O | O | H2O
product | 4-(bis-ethoxycarbonyl methyl)-quinoline | 21.0 mmol, 6.02 g, 60% yield | C(C)OC(=O)C(C1=CC=NC2=CC=CC=C12)C(=O)OCC | C16H17NO4
